US08389523B2
5.7 g (19 mmol) of 1-(benzo[d][1,3]dioxol-5-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid and 3.1 g (24 mmol) of oxalyl chloride were dissolved in dichloromethane (10 mL), and 0.026 g (0.35 mmol) of dimethylformamide was added thereto. The mixture was heated to reflux for 2 hours while stirring. After confirming the completion of the reaction, the solvent was distilled off under reduced pressure to obtain 1-(benzo[d][1,3]dioxol-5-yl)-2-oxo-1,2-dihydroquinoxaline-3-carbonyl chloride as yellow crystals (Compound No. of Production Intermediate: IX-73).

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid | 19 mmol, 5.7 g | O1COC2=C1C=CC(=C2)N2C(C(=NC1=CC=CC=C21)C(=O)O)=O | C16H10N2O5
reactant | oxalyl chloride | 24 mmol, 3.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.35 mmol, 0.026 g | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(benzo[d][1,3]dioxol-5-yl)-2-oxo-1,2-dihydroquinoxaline-3-carbonyl chloride | O1COC2=C1C=CC(=C2)N2C(C(=NC1=CC=CC=C21)C(=O)Cl)=O | C16H9ClN2O4
